US03997564
To 150 mls. of concentrated nitric acid cooled to and maintained at 0°C. is added 100 gms. of methylenedioxybenzene dropwise with vigorous stirring. At the end of the addition, the reaction mixture is diluted with several volumes of water, the precipitated solids collected by vacuum filtration and washed with several portions of water. Recrystallization of the crude solids from methanol provided 1-nitro-3,4-methylenedioxybenzene, m.p. 130°-141°C.

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | methylenedioxybenzene | C1OC2=C(C=CC=C2)O1 | C7H6O2
solvent | water | O | H2O
product | 1-nitro-3,4-methylenedioxybenzene | [N+](=O)([O-])C1=CC2=C(C=C1)OCO2 | C7H5NO4
